US06153609
Cyclohexyl[(3-hydroxypropyl)(4-methoxybenzenesulfonyl)amino]acetic acid benzyl ester (45.8 grams, 96 mmol) and sodium periodate (92.6 grams, 433 mmol) were dissolved in a mixture of acetonitrile (345 mL), carbon tetrachloride (345 mL) and water 460 mL). While cooling in an ice bath, ruthenium trichloride monohydrate (4.4 grams, 21 mmol) was then added. The resulting mixture was mechanically stirred with ice bath cooling for 30 minutes. The bath was removed and stirring was continued at room temperature for 4 hours. The reaction mixture was diluted with ethyl acetate and filtered through diatomaceous earth. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and saturated brine. After drying over magnesium sulfate, the solvents were evaporated to give a dark oil from which 3-[(benzyloxycarbonylcyclohexylmethyl)-(4-methoxybenzenesulfonyl) amino]propionic acid, a white foam (28.1 grams, 60%), was isolated by flash chromatography on silica gel eluting sequentially with chloroform and 1% methanol in chloroform.

reactant | Cyclohexyl[(3-hydroxypropyl)(4-methoxybenzenesulfonyl)amino]acetic acid benzyl ester | 96 mmol, 45.8 grams | C(C1=CC=CC=C1)OC(C(N(S(=O)(=O)C1=CC=C(C=C1)OC)CCCO)C1CCCCC1)=O | C25H33NO6S
reactant | sodium periodate | 433 mmol, 92.6 grams | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile | 345 mL | C(C)#N | C2H3N
solvent | carbon tetrachloride | 345 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 460 mL | O | H2O
catalyst | ruthenium trichloride monohydrate | 21 mmol, 4.4 grams | O.[Ru](Cl)(Cl)Cl
product | 3-[(benzyloxycarbonylcyclohexylmethyl)-(4-methoxybenzenesulfonyl) amino]propionic acid | C(C1=CC=CC=C1)OC(=O)C(C1CCCCC1)N(CCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C25H31NO7S
